US07465795B2
4-amino-N-propyl-8-(2-pyridyl)cinnoline-3-carboxamide
Using method C, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (178 mg, 0.500 mmol) and 2-(tributylstannyl)pyridine (220 mg, 0.600 mmol) were reacted to afford the title compound (60 mg, 39% yield) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.79 (m, 1H), 8.52 (br, 1H), 8.26-8.21 (m, 1H), 8.14-8.09 (m, 1H), 8.05-7.98 (m, 1H), 7.88-7.75 (m, 2H), 7.34 (m, 1H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 1.68 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=308 (M+H). HPLC 1.53 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.500 mmol, 178 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 2-(tributylstannyl)pyridine | 0.600 mmol, 220 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
product | 4-amino-N-propyl-8-(2-pyridyl)cinnoline-3-carboxamide | 60 mg, 39% yield | NC1=C(N=NC2=C(C=CC=C12)C1=NC=CC=C1)C(=O)NCCC | C17H17N5O
